US07691882B2
3-(3-(4-(6-Fluoro-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (3 mL) solution of (4-(6-fluoro-pyridin-2-yloxymethyl)-phenyl)acetohydroximoyl chloride (200 mg, 0.679 mmol) described in Manufacturing Example 55-1-5 and 3-ethynyl-pyridin-2-ylamine (50 mg, 0.423 mmol) described in Manufacturing Example 1-2-3 was added triethylamine (237 μL, 1.7 mmol) at room temperature, which was stirred for 2 hours at 50° C. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=4:1→2:1) to obtain the title compound (59 mg, 23%).

reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | (4-(6-fluoro-pyridin-2-yloxymethyl)-phenyl)acetohydroximoyl chloride | 0.679 mmol, 200 mg | FC1=CC=CC(=N1)OCC1=CC=C(C=C1)CC(=NO)Cl | C14H12ClFN2O2
reactant | 3-ethynyl-pyridin-2-ylamine | 0.423 mmol, 50 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 1.7 mmol, 237 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(4-(6-Fluoro-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 59 mg, 23% | FC1=CC=CC(=N1)OCC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C21H17FN4O2
